* /home/nityanand.singh310/esim-workspace/counterbasic/counterbasic.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
* u3  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ v1 v2 v3 v4 dac_bridge_4
* u2  clk reset net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* s c m o d e
v1  clk gnd pulse(0 1 0.000000005 0.000000000001 0.000000000001 0.000000002 0.000000010)
v2  reset gnd pulse(01 0 0 0.00000000005 0.00000000005 0.000000009 1)
* u7  v4 plot_v1
* u6  v3 plot_v1
* u5  v2 plot_v1
* u4  v1 plot_v1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ nityanand_counter
* u8  reset plot_v1
* u9  clk plot_v1
a1 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [v1 v2 v3 v4 ] u3
a2 [clk reset ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=0.000000000001 t_fall=0.000000000001 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=0 in_high=1 rise_delay=0.000000000001 fall_delay=0.000000000001 ) 
* Schematic Name:                             nityanand_counter, NgSpice Name: nityanand_counter
.model u1 nityanand_counter(rise_delay=0.000000000001 fall_delay=0.000000000001 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-09 100e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(v4) v(v3) +6v(v2)+12 v(v1) +18v(clk) +24 v(reset)+30
.endc
.end
