* /home/nityanand.singh310/eSim-Workspace/final/final.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Sat 08 Oct 2022 03:18:45 PM IST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SC5  Net-_SC5-Pad1_ Net-_SC3-Pad1_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC6  Net-_SC5-Pad1_ Net-_SC3-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
v1  Net-_SC1-Pad3_ GND DC		
SC7  Net-_SC10-Pad2_ Net-_SC5-Pad1_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC8  Net-_SC10-Pad2_ Net-_SC5-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC9  Net-_SC10-Pad1_ Net-_SC10-Pad2_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC10  Net-_SC10-Pad1_ Net-_SC10-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC11  Net-_SC11-Pad1_ Net-_SC10-Pad1_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC12  Net-_SC11-Pad1_ Net-_SC10-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC13  RingOscc Net-_SC11-Pad1_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC14  RingOscc Net-_SC11-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC1  Net-_SC1-Pad1_ Net-_SC1-Pad2_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC2  Net-_SC1-Pad1_ Net-_SC1-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC3  Net-_SC3-Pad1_ Net-_SC1-Pad1_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC4  Net-_SC3-Pad1_ Net-_SC1-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
U1  RingOscc plot_v1		
scmode1  SKY130mode		
SC15  Net-_SC15-Pad1_ RingOscc Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC16  Net-_SC15-Pad1_ RingOscc GND GND sky130_fd_pr__nfet_01v8_lvt		
SC17  Net-_SC1-Pad2_ Net-_SC15-Pad1_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC18  Net-_SC1-Pad2_ Net-_SC15-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC19  Net-_SC19-Pad1_ CVSLClk Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC23  CVSLClk Net-_SC19-Pad1_ Net-_SC1-Pad3_ Net-_SC1-Pad3_ sky130_fd_pr__pfet_01v8_lvt		
SC20  Net-_SC19-Pad1_ RingOscc Net-_SC20-Pad3_ Net-_SC20-Pad3_ sky130_fd_pr__nfet_01v8_lvt		
SC21  Net-_SC20-Pad3_ Net-_SC10-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC22  CVSLClk Net-_SC11-Pad1_ GND GND sky130_fd_pr__nfet_01v8_lvt		
SC24  CVSLClk Net-_SC10-Pad2_ GND GND sky130_fd_pr__nfet_01v8_lvt		
U2  CVSLClk plot_v1		
U4  CVSLClk reset Net-_U3-Pad1_ Net-_U3-Pad2_ adc_bridge_2		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U3-Pad3_ Net-_U3-Pad4_ Net-_U3-Pad5_ Net-_U3-Pad6_ nityanand_counterr		
U5  Net-_U3-Pad3_ Net-_U3-Pad4_ Net-_U3-Pad5_ Net-_U3-Pad6_ O1 O2 O3 O4 dac_bridge_4		
v2  reset GND pulse		
U6  O1 plot_v1		
U7  O2 plot_v1		
U8  O3 plot_v1		
U9  O4 plot_v1		
U10  reset plot_v1		

.end
