* /home/nityanand.singh310/esim-workspace/final/final.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
xsc5 net-_sc5-pad1_ net-_sc3-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc6 net-_sc5-pad1_ net-_sc3-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
v1 net-_sc1-pad3_ gnd  dc 1.8
xsc7 net-_sc10-pad2_ net-_sc5-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc8 net-_sc10-pad2_ net-_sc5-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc9 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc11 net-_sc11-pad1_ net-_sc10-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc12 net-_sc11-pad1_ net-_sc10-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc13 ringoscc net-_sc11-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc14 ringoscc net-_sc11-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc3-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc4 net-_sc3-pad1_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
* u1  ringoscc plot_v1
* s c m o d e
xsc15 net-_sc15-pad1_ ringoscc net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc16 net-_sc15-pad1_ ringoscc gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc17 net-_sc1-pad2_ net-_sc15-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc18 net-_sc1-pad2_ net-_sc15-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc19 net-_sc19-pad1_ cvslclk net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc23 cvslclk net-_sc19-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
xsc20 net-_sc19-pad1_ ringoscc net-_sc20-pad3_ net-_sc20-pad3_ sky130_fd_pr__nfet_01v8_lvt 
xsc21 net-_sc20-pad3_ net-_sc10-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc22 cvslclk net-_sc11-pad1_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc24 cvslclk net-_sc10-pad2_ gnd gnd sky130_fd_pr__nfet_01v8_lvt 
* u2  cvslclk plot_v1
* u4  cvslclk reset net-_u3-pad1_ net-_u3-pad2_ adc_bridge_2
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ nityanand_counterr
* u5  net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ o1 o2 o3 o4 dac_bridge_4
v2  reset gnd pulse(1 0 0 0.000000000001 0.000000000001 0.000000040 100)
* u6  o1 plot_v1
* u7  o2 plot_v1
* u8  o3 plot_v1
* u9  o4 plot_v1
* u10  reset plot_v1
a1 [cvslclk reset ] [net-_u3-pad1_ net-_u3-pad2_ ] u4
a2 [net-_u3-pad1_ ] [net-_u3-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] u3
a3 [net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ ] [o1 o2 o3 o4 ] u5
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0.3 in_high=1 rise_delay=0.000000000001 fall_delay=0.000000000001 ) 
* Schematic Name:                             nityanand_counterr, NgSpice Name: nityanand_counterr
.model u3 nityanand_counterr(rise_delay=0.000000000001 fall_delay=0.000000000001 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=0.000000000001 t_fall=0.000000000001 ) 
.tran 1e-09 200e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(o4) v(o3) +6v(o2)+12 v(o1) +18v(cvslclk) +24 v(reset)+30v(ringoscc)+36
.endc
.end
